US09371319B2
Preparation 106: 2-Methoxy-4-(pyrrolidin-1-ylmethyl)aniline
10% Pd on carbon (12 mg, 0.866 mmol) was added to a solution of 1-(3-methoxy-4-nitrobenzyl)pyrrolidine (Preparation 105, 180 mg, 0.76 mmol) in EtOH (3 mL). The reaction mixture was degassed and then stirred for 1 hour at room temperature under an atmosphere of hydrogen. The reaction was filtered on a pad of Celite and the filtrate was concentrated under reduced pressure. The residue was purified on silica gel column chromatography eluting with 5% methanol in dichloromethane to afford the title compound as a colourless oil (0.12 g, 76.3%). 1H-NMR (500 MHz, CDCl3): δ 1.79 (t, J=6.7 Hz, 4H), 2.5 (t, J=6.7 Hz, 4H), 3.53 (s, 2H), 3.75 (s, br, 2H), 3.86 (s, 3H), 6.65 (d, J=9.3 Hz, 1H), 6.72 (d, J=9.3 Hz, 1H), 6.81 (d, J=1.5 Hz, 1H).

reactant | 1-(3-methoxy-4-nitrobenzyl)pyrrolidine | 0.76 mmol, 180 mg | COC=1C=C(CN2CCCC2)C=CC1[N+](=O)[O-] | C12H16N2O3
solvent | EtOH | 3 mL | CCO | C2H6O
catalyst | Pd on carbon | 0.866 mmol, 12 mg | [Pd] | Pd
product | 2-Methoxy-4-(pyrrolidin-1-ylmethyl)aniline | 0.12 g, 76.3% | COC1=C(N)C=CC(=C1)CN1CCCC1 | C12H18N2O
